US05095018
Dry hydrogen chloride gas (29.8 g, 0.817 mol) was bubbled through a solution of 2-fluorophenylacetonitrile (100 g, 0.743 mol) (Aldrich) in absolute ethanol (37.6 g, 0.817 mol) at 0° C. After uptake of hydrogen chloride was complete, the reaction was kept at 0° C. for 48 hours. The solid was triturated in ether (3×200 mL) and the white solid was collected by suction filtration. Drying for several days under vacuum in a desiccator containing sodium hydroxide pellets and phosphorus pentoxide gave 148 g (91%) of ethyl 2-(2-fluorophenyl)acetimidate hydrochloride, mp. 96°-99° C.; nmr (DMSO-d6)L δ11.58 (br s, 2H, NH2), 6.95-7.50 (complex multiplets, 4H, ArH), 4.40 (q, 2H, OCH2), 4.06 (s, 2H, CH2), 1.24 (t, 3H, CH3); ms: m/e 181 (M+), 162 (M-F+), 153 (M-C2H4 +), 136 (M-OEt+), 109 (C7H6F+).

reactant | hydrogen chloride | 0.817 mol, 29.8 g | Cl | ClH
reactant | 2-fluorophenylacetonitrile | 0.743 mol, 100 g | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | ethanol | 0.817 mol, 37.6 g | C(C)O | C2H6O
product | ethyl 2-(2-fluorophenyl)acetimidate hydrochloride | 148 g, 91% | Cl.FC1=C(C=CC=C1)CC(OCC)=N | InChI=1S/C10H12FNO.ClH/c1-2-13-10(12)7-8-5-3-4-6-9(8)11;/h3-6,12H,2,7H2,1H3;1H
